US06552013B1
Synthesis of 9-(N′-Boc-L-Alaninyl)amino-5,6-Dihydro-4H-quino[8,1-ab][3]benzazepin-8(9H)-one
Following General Procedure D and using N-Boc-Alanine (Aldrich) and 9-amino-5,6-dihydro-4H-quino[8,1-ab][3]benzazepin-8(9H)-one (from Example 3-AB), the title compound was prepared.

reactant | N-Boc-Alanine | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | 9-amino-5,6-dihydro-4H-quino[8,1-ab][3]benzazepin-8(9H)-one | NC1C(N2C3=C(C4=C1C=CC=C4)C=CC=C3CCC2)=O | C17H16N2O
product | 9-(N′-Boc-L-Alaninyl)amino-5,6-Dihydro-4H-quino[8,1-ab][3]benzazepin-8(9H)-one | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)NC1C(N2C3=C(C4=C1C=CC=C4)C=CC=C3CCC2)=O | C25H29N3O4
